US07135480B2
3-Cyano-1-(pyridine-3-carbonyl)-pyrrolo[1,2-a]quinoline
The quinolinium salt/quinoline mixture was prepared from 3-acetyl-pyridine (440 μL, 4.00 mmol), quinoline (5.0 mL, 42 mmol) and iodine (1.02 g, 4.00 mmol) similar to Example 14, and yielded 312 mg of a brownish-green solid. The title compound was prepared from the quinolinium salt/quinoline mixture (290 mg), tetrapyridinecobalt(II) dichromate (346 mg, 0.568 mmol), sodium bicarbonate (131 mg, 1.56 mmol), acrylonitrile (180 μL, 2.73 mmol), and N,N-dimethylformamide (2.0 mL) similar to Example 14, yielded 15.5 mg (1.3% over 2 steps) as a yellow solid. 1H NMR (CDCl3): 8.80 (ddd, J=4.12, 1.65, 0.96 Hz, 1H), 8.24 (d, J=7.97 Hz, 1H), 8.12 (d, J=8.52 Hz, 1H), 7.99 (td, J=7.76, 1.83 Hz, 1H), 7.85 (m, 2H), 7.76 (d, J=9.07 Hz, 1H), 7.69 (d, J=9.06 Hz, 1H), 7.52–7.65 (m, 3H).

reactant | quinolinium | [NH+]1=CC=CC2=CC=CC=C12
reactant | quinoline | 290 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | dichromate | 0.568 mmol, 346 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | sodium bicarbonate | 1.56 mmol, 131 mg | C([O-])(O)=O.[Na+]
reactant | acrylonitrile | 2.73 mmol, 180 μL | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-Cyano-1-(pyridine-3-carbonyl)-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(=O)C=2C=NC=CC2 | C19H11N3O
